US06608077B2
b) N-(3-aminosulfonyl-4-chloro-2-hydroxyphenyl)-N′-(1-methylpyrazol-5-yl)urea
Under Ar, a solution of 3-amino-6-chloro-2-hydroxybenzenesulfonamide (100 mg, 0.45 mmol) and 5-(azidocarbonyl)-1-methylpyrazol (280 mg, 1.85 mmol) in 2 mL of N,N-dimethyl-formamide was stirred at room temperature for 3 days. Purification upon Gilson HPLC, eluting with acetonitrile/water (10/90, v/v to 90/10, v/v, over 10 min), gave the desired product (12 mg, 7.7%). LC-MS (m/z) 346.0 (M+).

reactant | 3-amino-6-chloro-2-hydroxybenzenesulfonamide | 0.45 mmol, 100 mg | NC=1C(=C(C(=CC1)Cl)S(=O)(=O)N)O | C6H7ClN2O3S
reactant | 5-(azidocarbonyl)-1-methylpyrazol | 1.85 mmol, 280 mg | N(=[N+]=[N-])C(=O)C1=CC=NN1C | C5H5N5O
reactant | N,N-dimethyl-formamide | 2 mL | CN(C=O)C | C3H7NO
product | N-(3-aminosulfonyl-4-chloro-2-hydroxyphenyl)-N′-(1-methylpyrazol-5-yl)urea | 12 mg, 7.7% | NS(=O)(=O)C=1C(=C(C=CC1Cl)NC(=O)NC1=CC=NN1C)O | C11H12ClN5O4S
